US09102697B2
9-Hydroxy-10-methoxy-1-(methoxymethoxy)-3-methyl-8-oxo-5,6,7,8-tetrahydroanthracene-2-carbaldehyde.
2,6-Lutidine (130 μL, 1.12 mmol, 2.0 equiv) was added to an ice-cooled mixture of (E)-9-hydroxy-10-methoxy-8-(methoxymethoxy)-6-methyl-7-(prop-1-enyl)-3,4-dihydroanthracen-1-one (200 mg, 0.56 mmol, 1 equiv), potassium osmate dihydrate (10 mg, 0.028 mmol, 0.05 equiv), and sodium periodate (480 mg, 2.24 mmol, 4.0 equiv) in a mixture of tetrahydrofuran (10 mL) and water (5 mL). After 10 min, the cooling bath was removed and the reaction flask was allowed to warm to 23° C. After 2.5 h, the reaction mixture was partitioned between water (50 mL) and ethyl acetate (100 mL). The layers were separated. The organic layer was dried over sodium sulfate. The dried solution was filtered and the filtrate was concentrated. The residue was purified by flash-column chromatography (15% ethyl acetate-hexanes initially, grading to 20% ethyl acetate-hexanes) to provide 142 mg of the product, 9-hydroxy-10-methoxy-1-(methoxymethoxy)-3-methyl-8-oxo-5,6,7,8-tetrahydroanthracene-2-carbaldehyde, as an orange foam (74%). 1H NMR (500 MHz, CDCl3): 15.10 (s, 1H), 10.72 (s, 1H), 7.59 (s, 1H), 5.26 (s, 2H), 3.81 (s, 3H), 3.62 (s, 3H), 3.08 (t, 2H, J=6.6 Hz), 2.77 (t, 2H, J=6.6 Hz), 2.73 (s, 3H), 2.12 (m, 2H). 13C NMR (125 MHz, CDCl3): 205.1, 193.2, 163.4, 161.7, 143.1, 141.6, 137.0, 132.4, 126.8, 120.0, 116.4, 111.4, 102.8, 61.1, 58.3, 38.8, 23.7, 22.3, 21.9. FTIR, cm−1: (thin film) 2959 (m), 1674 (m), 1610 (s), 1560 (m), 1375 (s), 1246 (s), 1153 (m), 1038 (s), 1015 (s), 900 (s). HRMS (ESI): Calcd for (C19H20O6+H)+ 345.1333; Found 345.1329. TLC: (20% ethyl acetate-hexanes) Rf=0.22 (CAM).

reactant | 2,6-Lutidine | 1.12 mmol, 130 μL, 2.0 equiv | N1=C(C=CC=C1C)C | C7H9N
reactant | (E)-9-hydroxy-10-methoxy-8-(methoxymethoxy)-6-methyl-7-(prop-1-enyl)-3,4-dihydroanthracen-1-one | 0.56 mmol, 200 mg, 1 equiv | OC=1C2=C(C(=C(C=C2C(=C2CCCC(C12)=O)OC)C)\C=C\C)OCOC | C21H24O5
reactant | sodium periodate | 2.24 mmol, 480 mg, 4.0 equiv | I(=O)(=O)(=O)[O-].[Na+]
reactant | water | 5 mL | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 9-Hydroxy-10-methoxy-1-(methoxymethoxy)-3-methyl-8-oxo-5,6,7,8-tetrahydroanthracene-2-carbaldehyde | 142 mg | OC=1C=2C(CCCC2C(=C2C=C(C(=C(C12)OCOC)C=O)C)OC)=O | C19H20O6
